US07030139B2
32B: N-{4-[(cyclopropylmethyl)amino]-3-nitrophenyl}acetamide.
Following general procedure 2B: To a solution of N-(4-fluoro-3-nitrophenyl)acetamide (15.4 g, 77.7 mmol) in 80% aqueous ethanol (150 mL) was added cyclopropanemethylamine (10 mL) at room temperature. The reaction mixture was heated to reflux overnight. After cooling to room temperature, H2O (300 mL) was added and the desired product precipitated out as an orange solid (18 g, 92%).

reactant | N-(4-fluoro-3-nitrophenyl)acetamide | 77.7 mmol, 15.4 g | FC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7FN2O3
reactant | cyclopropanemethylamine | 10 mL | C1(CC1)CN | C4H9N
reactant | H2O | 300 mL | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N-{4-[(cyclopropylmethyl)amino]-3-nitrophenyl}acetamide | C1(CC1)CNC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C12H15N3O3
